US07842701B2
4-{[3-amino-7-methoxy-2-(2-methylphenyl)-4-oxo-4,5-dihydro-2H-pyrazolo[4,3-c]quinolin-9-yl]oxy}butanamide
A mixture of methyl 4-{[3-amino-7-methoxy-2-(2-methylphenyl)-4-oxo-4,5-dihydro-2H-pyrazolo[4,3-c]quinolin-9-yl]oxy}butanoate (60 mg) and 2N solution of ammonia in methanol was stirred at room temperature for 5 hours. The reaction mixture was concentrated under reduced pressure, and the residue was purified with column chromatography to obtain the target compound (37 mg).

reactant | methyl 4-{[3-amino-7-methoxy-2-(2-methylphenyl)-4-oxo-4,5-dihydro-2H-pyrazolo[4,3-c]quinolin-9-yl]oxy}butanoate | 60 mg | NC=1N(N=C2C1C(NC=1C=C(C=C(C21)OCCCC(=O)OC)OC)=O)C2=C(C=CC=C2)C | C23H24N4O5
reactant | ammonia | N | H3N
solvent | methanol | CO | CH4O
product | 4-{[3-amino-7-methoxy-2-(2-methylphenyl)-4-oxo-4,5-dihydro-2H-pyrazolo[4,3-c]quinolin-9-yl]oxy}butanamide | 37 mg | NC=1N(N=C2C1C(NC=1C=C(C=C(C21)OCCCC(=O)N)OC)=O)C2=C(C=CC=C2)C | C22H23N5O4
